US09168259B2
A mixture of 4.0 g (15.6 mmol) 6-chloro-2-(ethyl(methyl)amino)-4-methyl-pyridine-3-carboxylic acid ethylester and 13.6 ml (155.8 mmol) morpholine was heated in the MW to 135° C. for 2 h. Then the mixture was diluted with a 1M aq. NaOH sol. and EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 9:1) provided 2.0 g (6.4 mmol, 41%) 2-(ethyl(methyl)amino)-4-methyl-6-morpholino-pyridine-3-carboxylic acid ethylester.

reactant | 6-chloro-2-(ethyl(methyl)amino)-4-methyl-pyridine-3-carboxylic acid ethylester | 15.6 mmol, 4.0 g | C(C)OC(=O)C=1C(=NC(=CC1C)Cl)N(C)CC | C12H17ClN2O2
reactant | morpholine | 155.8 mmol, 13.6 ml | N1CCOCC1 | C4H9NO
solvent | NaOH | 1M | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(ethyl(methyl)amino)-4-methyl-6-morpholino-pyridine-3-carboxylic acid ethylester | 6.4 mmol, 2.0 g, 41% | C(C)OC(=O)C=1C(=NC(=CC1C)N1CCOCC1)N(C)CC | C16H25N3O3
